datasets/10k_Mayr_OG.csv
SMILES Labelled
"C[N+:23]1=[CH:22]/[C:21](=[CH:20]\[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)C2=CC=CC=C21.[CH:10](=[N+:11]=[N-:12])[C:61]1=[CH:62][CH:63]=[C:64]([C:65]#[N:66])[CH:73]=[CH:72]1>>C[N:23]1C2=CC=CC=C2[C:21]([CH:20]([CH:10]([N+:11]#[N:12])[C:61]2=[CH:62][CH:63]=[C:64]([C:65]#[N:66])[CH:73]=[CH:72]2)[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)=[CH:22]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1/C=C/C1=CC=CC=C1.C[Si](C)(C)[Si:63]([Si](C)(C)C)([Si](C)(C)C)[O:12][CH:11]=[CH2:10]>>CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([CH2:10][CH:11]=[O+:12][Si:63]([Si](C)(C)C)([Si](C)(C)C)[Si](C)(C)C)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1/C=C/C1=CC=CC=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC2=C(C=C1)[C:32](=[O:33])[C:21](=[CH:20][C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:22]2=[O:23].CC(C)(C)[P:10](C1=CC=CC=C1)C(C)(C)C>>CC(C)(C)[P+:10](C1=CC=CC=C1)(C(C)(C)C)[CH:20]([C:21]1=[C:22]([O-:23])C2=C(C=CC=C2)[C:32]1=[O:33])[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10=20;20,21=21,22;22,23=23"
"C[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](OC3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.Cl[Zn-:11](Cl)[CH:10]1[CH:61]=[CH:62][C:72]2=[C:71]1[CH:76]=[CH:75][CH:74]=[CH:73]2>>C[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH:10]2[CH:61]=[CH:62][C:72]3=[C:71]2[CH:76]=[CH:75][CH:74]=[CH:73]3)[C:41]2=[CH:42][CH:43]=[C:44](OC3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.Cl[Zn:11]Cl 10,11=10,20"
"CC(C)(C)[C@H]1CC[N:12]2C3=C(C=CC=C3)[S:62][C:11]2=[N:10]1.CN(C)[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21]2/C3=CC=CC=C3[N+:23](C)=[CH:22]2)[CH:36]=[CH:35]1>>CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([N:10]2[C@@H](C(C)(C)C)CC[N+:12]3=[C:11]2[S:62]C2=C3C=CC=C2)[C:21]2=[CH:22][N:23](C)C3=CC=CC=C32)[CH:36]=[CH:35]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC(C)[C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]1)=[O:23].C[Si:63](C)(C)[CH2:62][Si:11]([H:10])([CH2:72][Si:73](C)(C)C)[CH2:82][Si:83](C)(C)C>>CC(C)[C:22](=[CH:21][CH:20]([H:10])[C:31]1=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]1)[O-:23].C[Si:63](C)(C)[CH2:62][Si+:11]([CH2:72][Si:73](C)(C)C)[CH2:82][Si:83](C)(C)C 10,11=10,20;20,21=21,22;22,23=23"
"CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]=[C:21]2[C:22](=[O:23])C3=C(C=CC=C3)[C:32]2=[O:33])[CH:36]=[CH:35]1.[O+]#C[Mn-5:11](C#[O+])(C#[O+])(C#[O+])(C#[O+])[H:10]>>CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[C:21]2=[C:22]([O-:23])C3=C(C=CC=C3)[C:32]2=[O:33])[CH:36]=[CH:35]1.[O+]#C[Mn-4:11](C#[O+])(C#[O+])(C#[O+])C#[O+] 10,11=10,20;20,21=21,22;22,23=23"
C1=CC=C(N(C2=CC=CC=C2)[C:34]2=[CH:33][CH:32]=[C:31]([CH+:20][C:41]3=[CH:42][CH:43]=[C:44](N(C4=CC=CC=C4)C4=CC=CC=C4)[CH:45]=[CH:46]3)[CH:36]=[CH:35]2)C=C1.C[C:61]([CH-:10][C:71](C)=[O:72])=[O:62]>>C[C:61]([CH:10]([CH:20]([C:31]1=[CH:32][CH:33]=[C:34](N(C2=CC=CC=C2)C2=CC=CC=C2)[CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[C:44](N(C2=CC=CC=C2)C2=CC=CC=C2)[CH:45]=[CH:46]1)[C:71](C)=[O:72])=[O:62] 10=20
"C1CN2CCC[C:35]3=[C:34]2[C:33](=[CH:32][C:31]([CH+:20][CH:51]=[CH:52][C:41]2=[CH:42][C:43]4=[C:44]5N(CCC4)CCC[C:45]5=[CH:46]2)=[CH:36]3)C1.C[N:12]1[C:11]([H:10])([C:72]2=[CH:73][CH:74]=[C:75]([O:76]C)[CH:84]=[CH:83]2)[N:62](C)[C:93]2=[C:94]1C=CC=C2>>C1CN2CCC[C:35]3=[C:34]2[C:33](=[CH:32][C:31]([CH:20]([H:10])[CH:51]=[CH:52][C:41]2=[CH:42][C:43]4=[C:44]5N(CCC4)CCC[C:45]5=[CH:46]2)=[CH:36]3)C1.C[N+:12]1=[C:11]([C:72]2=[CH:73][CH:74]=[C:75]([O:76]C)[CH:84]=[CH:83]2)[N:62](C)[C:93]2=[C:94]1C=CC=C2 10,11=10,20;12=11,12"
"CC1(C)[O:64][C:13]([O-:14])=[C:12]([CH:11]([H:10])[C:92]2=[CH:93][CH:94]=[C:95]([N:96](C)C)[CH:104]=[CH:103]2)[C:73](=[O:74])[O:84]1.F[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CC1(C)[O:64][C:13](=[O:14])[C:12](=[CH:11][C:92]2=[CH:93][CH:94]=[C:95]([N:96](C)C)[CH:104]=[CH:103]2)[C:73](=[O:74])[O:84]1.F[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([H:10])([C:41]2=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20;12,13=11,12;14=13,14"
"CO[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)[CH:32]=[C:33](OC)[C:24]1=[O:25].C[C-:10]([C:61]#[N:62])[C:71]1=[CH:72][CH:73]=[CH:74][CH:85]=[CH:84]1>>CO[C:23]1=[C:24]([O-:25])[C:33](OC)=[CH:32][C:21]([CH:20]([C:10](C)([C:61]#[N:62])[C:71]2=[CH:72][CH:73]=[CH:74][CH:85]=[CH:84]2)[C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)=[CH:22]1 10=20;20,21=21,22;22,23=23,24;24,25=25"
"CSC[C:20](C)=[O:21].C[Si](C)(C)[Si:62]([Si](C)(C)C)([C:11](C)=[CH2:10])[Si:63](C)(C)C>>CSC[C:20](C)([CH2:10][C+:11](C)[Si:62]([Si](C)(C)C)([Si](C)(C)C)[Si:63](C)(C)C)[O-:21] 10,11=10,20;20,21=21"
